US09216968B2
N-(3-Chloro-2-methylphenyl)-2-(methylsulfinyl)-6-({[2-(trifluoromethyl)phenyl]carbonyl}amino)-1H-benzimidazole-4-carboxamide
To a solution of N-(3-chloro-2-methylphenyl)-2-(methylsulfanyl)-6-({[2-(trifluoromethyl)phenyl]carbonyl}amino)-1H-benzimidazole-4-carboxamide (26 mg) in THF (3 mL), was added an aqueous solution of m-chloroperbenzoic acid (75%, 12 mg) (1 mL), and the mixture was stirred at room temperature for 3 hours. The reaction mixture was diluted with ethyl acetate, washed sequentially with saturated aqueous sodium bicarbonate and brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified on column chromatography to yield the titled compound (10 mg) as pale yellow powder.

reactant | N-(3-chloro-2-methylphenyl)-2-(methylsulfanyl)-6-({[2-(trifluoromethyl)phenyl]carbonyl}amino)-1H-benzimidazole-4-carboxamide | 26 mg | ClC=1C(=C(C=CC1)NC(=O)C1=CC(=CC=2NC(=NC21)SC)NC(=O)C2=C(C=CC=C2)C(F)(F)F)C | C24H18ClF3N4O2S
reactant | m-chloroperbenzoic acid | 1 mL, 12 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(3-Chloro-2-methylphenyl)-2-(methylsulfinyl)-6-({[2-(trifluoromethyl)phenyl]carbonyl}amino)-1H-benzimidazole-4-carboxamide | 10 mg | ClC=1C(=C(C=CC1)NC(=O)C1=CC(=CC=2NC(=NC21)S(=O)C)NC(=O)C2=C(C=CC=C2)C(F)(F)F)C | C24H18ClF3N4O3S
